US07317125B2
Preparation of benzoic acid N′-[2-(4′-fluoro-biphenyl-2-ylsulfanyl)-acetyl]-N′-isopropyl-hydrazide
A solution of benzoic acid N′-[2-(2-bromo-phenylsulfanyl)-acetyl]-N′-isopropyl-hydrazide (50 mg, 0.123 mmol) in DME (4 ml)/2M Na2CO3 (0.215 ml, 0.43 mmoles) was treated with 4-fluorophenylboronic acid (35 mg, 0.25 mmol) and Pd[PPh3]4 (14 mg, 0.012 mmol) for 12 hours at 90° C. The reaction mixture was partitioned between water and DCM. The organic layer was washed with brine, dried over sodium sulfate, filtered, and concentrated. The crude was adsorbed on silica and purified on a silica gel column with a 20-50% ethyl acetate/hexane gradient. Further purification by RP HPLC afforded the product (9.5 mg, 20%). MS m/e 423.22 (M+H+)

reactant | benzoic acid N′-[2-(2-bromo-phenylsulfanyl)-acetyl]-N′-isopropyl-hydrazide | 0.123 mmol, 50 mg | BrC1=C(C=CC=C1)SCC(=O)N(NC(C1=CC=CC=C1)=O)C(C)C | C18H19BrN2O2S
reactant | Na2CO3 | 0.43 mmoles, 2M, 0.215 ml | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 4-fluorophenylboronic acid | 0.25 mmol, 35 mg | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
solvent | DME | 4 ml | COCCOC | C4H10O2
product | benzoic acid N′-[2-(4′-fluoro-biphenyl-2-ylsulfanyl)-acetyl]-N′-isopropyl-hydrazide | 9.5 mg, 20% | FC1=CC=C(C=C1)C1=C(C=CC=C1)SCC(=O)N(NC(C1=CC=CC=C1)=O)C(C)C | C24H23FN2O2S
